Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Biaxin / Levaquin
 
Attending: ___.
 
Chief Complaint:
Leg Swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ y/o F with PMH of neuromyelitis optica, DM, GERD 
and HBV who presents with LLE swelling. Of note the patient was 
recently admitted to ___ from ___ with leg weakness and 
numbness and was treated for a flare of her NMO with IV steroids 
and Rituximab. She was also found to have a UTI and was treated 
with 2 weeks of Nitrofurantoin. She presents with a two day 
history of L leg swelling, has history of DVT in same leg. She 
was sent to ER by neurologist to rule out new DVT. She also 
reported chest tightness with deep inspiration.  
.  
In the ED, vitals were T 98.1, BP 91/57, HR 79, RR 16, O2 98% 
RA. Ultrasound demonstrated DVT of the left lower extremity 
involving the  
common femoral through popliteal veins. CTA demonstrated right 
lower lobe segmental and subsegmental PE. She was started on a 
heparin gtt. Admitted to medical service for further management. 
 

 
Past Medical History:
1. Neuromyelitis optica, NMO titer negative
2. HBV core and surface antibody positive, surface antigen
negative 
3. GERD
4. DM.
5. s/p hysterectomy
 
Social History:
___
Family History:
NC

 
Physical Exam:
Vitals T 96.5, HR 73, BP 91/68, RR 16, O2 98% RA  
HEENT: NC/AT, moist oral mucosa  
Neck: supple, no LAD  
CV: Nl S1/S2, no murmurs/gallops/rubs  
Lung: CTAB  
Abd: Soft, nontender, non-distended.  
Ext: LLE swelling, non-pitting, +TTP posterior calf, unable to 
lift ext of bed, UE strength ___  

 
Pertinent Results:
___ 07:25PM BLOOD WBC-11.9* RBC-4.44 Hgb-12.6 Hct-35.8* 
MCV-81* MCH-28.4 MCHC-35.2* RDW-15.5 Plt ___
___ 07:40AM BLOOD WBC-8.9 RBC-4.33 Hgb-12.1 Hct-35.4* 
MCV-82 MCH-28.0 MCHC-34.3 RDW-15.6* Plt ___
___ 07:40AM BLOOD ___ PTT-29.1 ___
___ 07:40AM BLOOD %HbA1c-PND
.
CT OF THE CHEST WITH INTRAVENOUS CONTRAST: 
1. Right lower lobe segmental and subsegmental pulmonary embolus 
without 
complication such as secondary right heart strain or pulmonary 
infarcts. 
.  
2. Unchanged 2-mm right middle lobe pulmonary nodule. A 3-mm 
right upper 
lobe pulmonary nodule was not definitely visualized and could be 
embedded in atelectasis from the prior study. 
.
Lower Extremity Ultrasound:  Deep vein thrombosis of the left 
lower extremity involving the common femoral through popliteal 
veins. No right DVT and the normal respiratory variability in 
flow on the right suggests no IVC clot. 

 
Brief Hospital Course:
# DVT/Pulmonary Embolism:  The patinet was found to have a DVT, 
as well as a segmental pulmonary embolism.  She was 
hemodynamically stable, without tachycardia, tachypnea, or 
hypoxia.  Her left leg was swollen, but with dopplerable pulses, 
was non tense, non painful.  She was started on lovenox as a 
bridge to coumadin, with a goal INR of ___.  While her 
anticoagulation should continue for at least 9 months, given 
that the inciting event of immobility cannot be reversed, and 
that this occured while on prophylactic fragmin, we would 
continue the coumadin indefinatly.  She is planned to have her 
INR checked by her ___ 2 days from discharge, with manegment to 
be continued by her PCP.  Plan was communicated to PCP.
.
# Diabetes:  The patinet was started on insulin while on a 
prednisone taper, which is now complete.  She had not additional 
insulin requirments during the hospitalization and her 
hemoglobin A1C is still pending.  We have reduced her NPH doses 
in half, to 18units each morning, 5 units at night.  Her finger 
sticks should be watched closely, with consideration of 
eliminating insulin versus increasing back to pre-hospitalzation 
levels.  We have deffered starting aspirin unitl insue resolved.
.
# Neuromyeltis Optica:  Had recent flare in early ___, treated 
with IV steroids with 2 week taper as well as Rituximab. At 
baseline patient is unable to move ___ since last admission. No 
evidence of current current fare.  Continued Baclofen.
.
# HBV: continue lamivudine.
 
Medications on Admission:
1. Morphine SR 30 mg q 12 hours  
3. Gabapentin 300 mg QID  
4. Lamivudine 100 mg daily  
5. Pantoprazole 40 mg daily  
6. Baclofen 10 mg TID  
7. Percocet ___ BID PRN  
8. Docusate Sodium 100 mg bid  
9. Senna 8.6 mg daily prn  
10. Colace 100mg daily  
11. Ativan 0.5mg BID  
12. Fragmin 5,000 Units inj daily  
13. Insulin NPH 10units SQ HS and 36units SQ breakfast with 
aspart SS  

 
Discharge Medications:
1. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q12H (every 12 hours).  
2. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours).  
3. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Baclofen 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
6. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Insulin NPH Human Recomb 100 unit/mL Suspension Sig: Five (5) 
units Subcutaneous at bedtime.  
10. Insulin NPH Human Recomb 100 unit/mL Suspension Sig: 
Eighteen (18) units Subcutaneous qam.  
11. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day: 
with dose to be adjusted by your PCP.
Disp:*60 Tablet(s)* Refills:*2*
12. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours) for 7 days.
Disp:*14 doses* Refills:*0*
13. Insulin Lispro 100 unit/mL Solution Sig: as given by sliding 
scale  Subcutaneous qACHS.  
14. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
DVT
Pulmonary Embolism

Secondary Diagnosis:
Diabetes
Neuromyeltis Optica

 
Discharge Condition:
Stable

 
Discharge Instructions:
You are being discharged from the hospital after an admission 
for swelling of your left leg.  You were found to have a clot in 
both your leg and in your lung.  You have been started on a 
blood thinner to help prevent these clots from getting larger.  
One blood thinner is know as coumadin, which you will take 
daily.  We measure the level of this medication looking at a 
number called INR, which we want to see between 2 to 3.  You 
will have regular blood checks to make sure level is good, and 
you dose may need to be adjusted.  Tell any physican prescribing 
you new medication that you take coumadin, as new medications 
can interact with coumadin.
  We are also starting you on an injectable medicine known as 
lovenox.  You will take this medicine until your coumadin dosing 
is therapeutic.
  If you develop any worsening leg swelling, increasing leg 
pain, a cold leg or change in color, or any other concerning 
symptoms, you should go to the emergency room.  If you develop 
any chest pain, shortness of breath, palpitations, you should 
call your PCP or go to the emergency room.
.
  You have been on insulin since being on steroids, which you 
may no longer need now that you have comleted your prednisone 
taper.  We have cut the doses of your NPH in half, and your 
primery care physican should help assess if the NPH can be 
stopped all together. 
 
Followup Instructions:
___